US05804585
B. N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(2,4-dimethylbenzyl)thieno[2,3-b]pyridine-3-sulfonamide
The title compound was prepared by the method of Example 5(A) using N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2,4-dimethylbenzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.17 g, 0.31 mmoles), CH2Cl2 (5 ml), triethylsilane (0.5 ml, 3.1 mmoles) and boron trifluoride etherate (0.2 ml, 1.5 mmoles). Flash chromatography (40% EtOAc/hexanes) provided 87 mg (53%) of the title compound.

reactant | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2,4-dimethylbenzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.31 mmoles, 0.17 g | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C(C=C2)C)C)O)COCCOC)C | C24H26ClN3O6S2
reactant | triethylsilane | 3.1 mmoles, 0.5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 1.5 mmoles, 0.2 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-3-methyl-5-isoxazolyl)-N-(methoxyethoxymethyl)-2-(2,4-dimethylbenzyl)thieno[2,3-b]pyridine-3-sulfonamide | 87 mg, 53% | ClC=1C(=NOC1N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C(C=C2)C)C)COCCOC)C | C24H26ClN3O5S2
